US04172829
2-n-Pentyloxy-9-cyclohexyl-9H-adenine
The procedure of Example 8 was repeated except that the 9-(2-cyclohexenyl)-2-ethoxy-9H-adenine used therein was replaced by an equivalent weight of 9-(2-cyclohexenyl)-2-n-pentyloxy-9H-adenine. There was produced the title product in 90% yield; m.p. 64°-68° C. IR(neat): 3500, 3320, 1635, 1590, 1460, 1395, 1340, 1325, 1265 cm-1. UV: λmaxEtOH 253 nm(ε 10900), 269 nm(ε 16800). NMR(CDCl3): 1.50(19H, m), 4.20(1H, m), 4.26(2H, t, J=6.5 Hz), 6.25(2H, s), 7.56(1H, s).

reactant | 9-(2-cyclohexenyl)-2-ethoxy-9H-adenine | C1(C=CCCC1)N1C2=NC(=NC(=C2N=C1)N)OCC | C13H17N5O
reactant | 9-(2-cyclohexenyl)-2-n-pentyloxy-9H-adenine | C1(C=CCCC1)N1C2=NC(=NC(=C2N=C1)N)OCCCCC | C16H23N5O
product | 2-n-Pentyloxy-9-cyclohexyl-9H-adenine | 90% yield | C(CCCC)OC1=NC(=C2N=CN(C2=N1)C1CCCCC1)N | C16H25N5O
